US07786115B2
A mixture of 3-[7-(2-chloroethoxy)-4-methyl-1-oxoisoquinolin-2(1H)-yl]-N-cyclobutyl-4-methylbenzamide (131 mg), potassium iodide (102 mg), and N-methylisopropylamine (0.19 ml) were stirred in DMA (2 ml) and heated under microwave irradiation conditions (Personal Chemistry Emrys Optimizer with 300 W magnetron) at 150° C. for 1 hour. The reaction mixture was diluted with ethyl acetate and washed with water (×5), brine (×2), dried (magnesium sulfate) and concentrated. Purification by column chromatography on a silica column eluting using initially 10% methanol/ethyl acetate and then a 99:1 mixture of 10% methanol/ethyl acetate and aqueous ammonia solution gave N-cyclobutyl-3-[7-{2-[isopropyl(methyl)amino]ethoxy}-4-methyl-1-oxoisoquinolin-2(1H)-yl]-4-methylbenzamide (74 mg) as a cream solid; NMR Spectrum: (DMSOd6) 0.98 (d, 6H), 1.68 (m, 2H), 2.06 (m, 2H), 2.11 (s, 3H), 2.21 (m, 2H), 2.25 (s, 3H), 2.28 (s, 3H), 2.77 (t, 2H), 2.84 (m, 1H), 4.15 (m, 2H), 4.43 (m, 1H), 7.09 (s, 1H), 7.45-7.51 (m, 2H), 7.71-7.74 (m, 2H), 7.80 (s, 1H), 7.89 (d, 1H), 8.60 (d, 1H); Mass Spectrum: M+H+ 462.

reactant | 3-[7-(2-chloroethoxy)-4-methyl-1-oxoisoquinolin-2(1H)-yl]-N-cyclobutyl-4-methylbenzamide | 131 mg | ClCCOC1=CC=C2C(=CN(C(C2=C1)=O)C=1C=C(C(=O)NC2CCC2)C=CC1C)C | C24H25ClN2O3
reactant | potassium iodide | 102 mg | [I-].[K+]
reactant | N-methylisopropylamine | 0.19 ml | CNC(C)C | C4H11N
solvent | DMA | 2 ml | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-cyclobutyl-3-[7-{2-[isopropyl(methyl)amino]ethoxy}-4-methyl-1-oxoisoquinolin-2(1H)-yl]-4-methylbenzamide | 74 mg | C1(CCC1)NC(C1=CC(=C(C=C1)C)N1C(C2=CC(=CC=C2C(=C1)C)OCCN(C)C(C)C)=O)=O | C28H35N3O3
